US05693809
Preparation of 17β-hexoxy-4-methyl-5α-4-azaandrostan-3-one
To a solution of 17β-hydroxy-4-methyl-5α-4-azaandrostan-3-one (102 mg, 0.336 mmol) in DMSO (3 ml) was added powdered KOH (300 mg) followed by n-hexyliodide (400 μl). After stirring the reaction mixture overnight, the reaction was diluted with water and extracted with ethyl acetate. The organic layer was washed with water, then brine, then dried (MgSO4), and concentrated in vacuo. The residue was then purified by preparative thin layer chromatography to afford the title compound, characterized by H1NMR.

reactant | 17β-hydroxy-4-methyl-5α-4-azaandrostan-3-one | 0.336 mmol, 102 mg | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3N(C(CC[C@]3(C)[C@H]1CC2)=O)C | C19H31NO2
reactant | KOH | 300 mg | [OH-].[K+]
reactant | n-hexyliodide | 400 μl | C(CCCCC)I | C6H13I
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 17β-hexoxy-4-methyl-5α-4-azaandrostan-3-one | C(CCCCC)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3N(C(CC[C@]3(C)[C@H]1CC2)=O)C | C25H43NO2
